US07608629B2
Preparation 9. 1-Benzyl-2,2-dimethyl-piperidin-4-ol
Combine 1-benzyl-2,2-dimethyl-piperidin-4-one (1.0 g, 4.6 mmol) and tetrahydrofuran (20 mL) and cool to 0° C. Add lithium aluminum hydride (0.175 g, 4.6 mmol) with stirring. After 30 min., warm to ambient temperature. After 30 min., quench the reaction mixture with water (50 mL). Extract with ethyl acetate (2×75 mL), combine the organic layers and wash with aqueous NaCl solution (50 mL), dry over sodium sulfate, filter and concentrate to obtain the title compound (1.0 g, 100%). Mass spectrum (electrospray): m/z=220.1 (M+1); 1H NMR (CDCl3): 7.3 (m, 5H), 4.0 (m, 1H), 3.8 (m, 1H), 3.0 (m, 1H), 2.6 (m, 1H), 2.3 (m, 1H), 1.8 (m, 2H), 1.4 (m, 3H), 1.25 (s, 3), 1.1 (s, 3H).

reactant | 1-benzyl-2,2-dimethyl-piperidin-4-one | 4.6 mmol, 1.0 g | C(C1=CC=CC=C1)N1C(CC(CC1)=O)(C)C | C14H19NO
reactant | lithium aluminum hydride | 4.6 mmol, 0.175 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-Benzyl-2,2-dimethyl-piperidin-4-ol | 1.0 g, 100% | C(C1=CC=CC=C1)N1C(CC(CC1)O)(C)C | C14H21NO
